US07220862B2
2-(1H-Indazol-5-ylamino)-succinic acid 1-ethyl ester
A stirred solution of 2-(1H-indazol-5-ylamino)-succinic acid 4-tert-butyl ester 1-ethyl ester (123.6 mg, 0.37 mmol) in methylene chloride (2 mL) and trifluoroacetic acid (0.5 mL) was stirred at room temperature overnight. The reaction mixture was then diluted with ethyl acetate and washed with saturated ammonium chloride solution, water and brine. The organic layer was dried and concentrated to give a dark green oil: LC/MS: tR=0.643 min, 278.19 (MH)+.

reactant | 2-(1H-indazol-5-ylamino)-succinic acid 4-tert-butyl ester 1-ethyl ester | 0.37 mmol, 123.6 mg | C(C)OC(C(CC(=O)OC(C)(C)C)NC=1C=C2C=NNC2=CC1)=O | C17H23N3O4
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1H-Indazol-5-ylamino)-succinic acid 1-ethyl ester | C(C)OC(C(CC(=O)O)NC=1C=C2C=NNC2=CC1)=O | C13H15N3O4
